US06353006B1
(L)-Valine methyl ester was reduced to (1S)-1-(hydroxymethyl)-2-methylpropylamine according to Method B1b, Step 2. The 2-hydroxyethylamine was reacted with isobutyraldehyde according to Method B4c, Step 1 to afford (4S)-2,4diisopropyl-1,3-oxazolidine. The oxazolidine was reduced according to Method B4c, Step 2 to give (1S)-1-(hydroxymethyl)-N-isobutyl-2-methylpropylamine. The substituted 2-hydroxyethylamine was reacted with SOCl2 according to Method B7b to give (1S)-1-(chloromethyl)-N-isobutyl-2-methylpropylamine. The chloroethylamine was reacted with 2-methyl-4-nitrophenyl isocyanate according to Method C4a to afford (4S)-2-(2-methyl-4-nitrophenylimino)-3-isobutyl-4-isopropyl-1,3-oxazolidine.

reactant | (L)-Valine methyl ester | COC([C@@H](N)C(C)C)=O | C6H13NO2
reactant | (1S)-1-(hydroxymethyl)-2-methylpropylamine | OC[C@H](C(C)C)N | C5H13NO
reactant | 2-hydroxyethylamine | OCCN | C2H7NO
reactant | isobutyraldehyde | C(C(C)C)=O | C4H8O
product | (4S)-2,4diisopropyl-1,3-oxazolidine | C(C)(C)C1OC[C@@H](N1)C(C)C | C9H19NO
